US08026234B2
Compound 155: 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxy-N-(4-(4-methylpiperazin-1-yl)phenyl)benzamide
The title compound was prepared in a manner analogous to compound 149 from 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid and 4-(4-methylpiperazin-1-yl)aniline with yield 82 mg (53%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.61 (br. s., 4H) 1.73 (br. s., 2H) 1.99 (br. s., 2H) 2.22 (s, 3H) 2.45 (br. s., 4H) 3.09 (br. s., 4H) 3.94 (s, 3H) 4.08 (t, J=13.89 Hz, 2H) 4.84 (br. s., 1H) 6.91 (d, J=8.84 Hz, 2H) 7.26 (d, J=6.32 Hz, 1H) 7.56 (d, J=8.59 Hz, 2H) 8.08 (s, 1H) 8.18-8.41 (m, 2H) 9.91 (br. s., 1H). [M+H] calc'd for C32H37F3N8O3, 639. found 639.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxybenzoic acid | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)O)C=C2OC)F | C21H22F3N5O4
reactant | 4-(4-methylpiperazin-1-yl)aniline | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-2-fluoro-5-methoxy-N-(4-(4-methylpiperazin-1-yl)phenyl)benzamide | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=CC(=C(C(=O)NC1=CC=C(C=C1)N1CCN(CC1)C)C=C2OC)F | C32H37F3N8O3
